US07423159B2
A mixture of 3-[4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)phenyl]-2-hydroxypropionic acid (409 mg), ethyl chlorocarbonate (324 mg), triethylamine (405 mg) and ethyl acetate (10 ml) was stirred at 0° C. for 1 hr. Conc. aqueous ammonia (10 ml) was added to the reaction mixture and the mixture was stirred at room temperature for 1 hr. The reaction mixture was concentrated, and the precipitated solids were collected by filtration, washed with water and dried to give 2-(ethoxycarbonyloxy)-3-[4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)phenyl]propionamide (471 mg, 98%) as colorless crystals.

reactant | 3-[4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)phenyl]-2-hydroxypropionic acid | 409 mg | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)NC1=CC=C(C=C1)CC(C(=O)O)O | C22H20FN3O4
reactant | ethyl chlorocarbonate | 324 mg | C(OCC)(=O)Cl | C3H5ClO2
reactant | triethylamine | 405 mg | C(C)N(CC)CC | C6H15N
reactant | ammonia | 10 ml | N | H3N
solvent | ethyl acetate | 10 ml | C(C)(=O)OCC | C4H8O2
product | 2-(ethoxycarbonyloxy)-3-[4-({(2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]prop-2-enoyl}amino)phenyl]propionamide | 471 mg, 98% | C(C)OC(=O)OC(C(=O)N)CC1=CC=C(C=C1)NC(\C=C\C=1C=NN(C1C1=CC=C(C=C1)F)C)=O | C25H25FN4O5
